US05674693
To 1.15 gram of 2-nitroimidazole in 20 mL of absolute ethanol was added 100 mg of potassium carbonate and 1.0 gram (R)-epichlorohydrin. The reaction mixture was refluxed overnight. The cooled reaction mixture is added to 150 mL of saturated aqueous sodium chloride containing 5% sodium bicarbonate. The reaction mixture was extracted with ethyl acetate (3×10 mL ) and the organic extract was dried over anhydrous sodium sulfate, filtered and concentrated to give 1.87 gram of the R enantiomer of 1-(2-hydroxy-3-chloropropyl)-2-nitroimidazole. A similar reaction procedure starting with (S)-epichlorohydrin gives 1.45 gram of the S enantiomer.

reactant | 2-nitroimidazole | 1.15 gram | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-epichlorohydrin | 1.0 gram | C(Cl)[C@H]1CO1 | C3H5ClO
reactant | sodium chloride | 150 mL | [Cl-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(2-hydroxy-3-chloropropyl)-2-nitroimidazole | OC(CN1C(=NC=C1)[N+](=O)[O-])CCl | C6H8ClN3O3
